US07595327B2
To 0.11 g of (3S,4R)-N-tert-butoxy-1-(isopropylsulfonyl)-3-methyl-4-[({4-[(2-methylquinolin-4-yl)methoxy]phenyl}sulfonyl)amino]piperidine-3-carboxamide was added 3 mL of trifluoroacetic acid and the resulting mixture was stirred at 45° C. for 8 h. The reaction mixture was then concentrated and the residue was purified by silica chromatography (silica prewashed with MeOH) eluting with a gradient of 5-20% MeOH/CH2Cl2 to afford (3S,4R)-N-hydroxy-1-(isopropylsulfonyl)-3-methyl-4-[({4-[(2-methylquinolin-4-yl)methoxy]phenyl}sulfonyl)amino]piperidine-3-carboxamide (0.091 g, 83%) as a colorless solid. MS: 591.2 (M+H)+

reactant | (3S,4R)-N-tert-butoxy-1-(isopropylsulfonyl)-3-methyl-4-[({4-[(2-methylquinolin-4-yl)methoxy]phenyl}sulfonyl)amino]piperidine-3-carboxamide | 0.11 g | C(C)(C)(C)ONC(=O)[C@]1(CN(CC[C@H]1NS(=O)(=O)C1=CC=C(C=C1)OCC1=CC(=NC2=CC=CC=C12)C)S(=O)(=O)C(C)C)C | C31H42N4O7S2
reactant | trifluoroacetic acid | 3 mL | FC(C(=O)O)(F)F | C2HF3O2
product | (3S,4R)-N-hydroxy-1-(isopropylsulfonyl)-3-methyl-4-[({4-[(2-methylquinolin-4-yl)methoxy]phenyl}sulfonyl)amino]piperidine-3-carboxamide | 0.091 g, 83% | ONC(=O)[C@]1(CN(CC[C@H]1NS(=O)(=O)C1=CC=C(C=C1)OCC1=CC(=NC2=CC=CC=C12)C)S(=O)(=O)C(C)C)C | C27H34N4O7S2
